Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]([H:11])[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],49.2798598899649
[C:1]([C@@:2]1([H:11])[O:3][C:4]([O-:5])=[C+:6][C:7]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],0.4071465809225998
[C:1]1([H:8])([H:9])[O:2][C:3](=[O:4])[C:5]([H:10])([H:11])[O:6]1.[H:7][H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.2742706770533
[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[N:4][H:11])[C:5]#[N:6]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],74.99352826102773
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([O:7])[H:17])([H:11])([H:12])[H:13],101.167053238594
[N:1]([N:6]([C@@:5]1([H:10])[C:2](=[O:3])[N:4]1[H:9])[H:11])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],42.417443934923895
[C:1]([C:2]([C:3]1=[C:4]([H:14])[C:5]([H:12])([H:13])[C:6]1([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],94.06739786704867
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5][n:6]([H:14])[n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],43.075177065615605
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:4]([C:3]([H:11])([H:12])[H:15])([H:13])[H:14])=[O:5])([H:8])([H:9])[H:10],46.7487707608495
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[H:8][H:10].[O:1]=[C:2]([C:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])[H:9],86.833390615173
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[C-:2]([C:3]([C:4]#[N:5])([H:10])[H:11])=[C:6]=[C+:7][H:12].[O:1]([H:8])[H:9],64.05419143195
[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C+:2]([N:3]([O-:4])[H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],47.02087912074929
[C:1]([O:5][C:4](=[O+:3][C-:2]([C:6]#[C:7][H:13])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],14.309588819335431
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][N+:7]([C:4](=[C:3]=[O:5])[H:8])=[N-:6],140.75743140692
[C:2]1([H:7])=[C:4]([H:10])[C:3]1([H:8])[H:9].[O:1]([O:5][H:11])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],32.919837311819705
[C:1](=[C:2]([H:8])[H:10])([H:7])[H:9].[C:3](\[O:4][H:12])(=[C:5](\[O:6][H:14])[H:13])[H:11]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],81.41656915668845
[O:1]([O:6][C@@:5]1([H:12])[C:2]([H:8])([H:9])[C@:3]1([O:4][H:11])[H:10])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],22.803300518033097
[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][H:11])([H:8])([H:9])[H:10].[O:4]=[C:5]=[N:7][O:6][H:12],97.94843941697408
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[N:4]1.[C:5](=[C:6]([H:14])[H:15])([H:12])[H:13],60.637089004949
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[O:2][C@@:3]1([O:4][H:7])[C:5]([O:6][H:12])([H:10])[H:11],89.6107657551514
[C:2]([C:3](=[O:4])[H:10])([C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9].[O:1]([H:7])[H:11]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7],61.59673443858504
[O:1]=[C:6]([N:7]=[C:2]=[C:3]([C:4](=[N:5][H:10])[H:9])[H:8])[H:11]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,69.99155628905672
[C:1]([C:2](=[C:3]([O:4][H:14])[H:12])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],81.8276483259527
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C-:2]1[C:3]([H:9])([H:10])[C+:4]([O:5][H:8])[C:6]1([H:11])[H:12])[H:7],79.2083826907017
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]#[C:2]/[C:7](=[C:6](\[O:5][H:8])[H:9])[H:10].[N:3]#[N:4],20.426778011691198
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([O+:7]=[C:6]([N:5]([C-:4]([H:13])[H:14])[H:15])[H:16])[H:11])([H:8])([H:9])[H:10],74.51575348156992
